US06451821B1
The process is performed as in Example 2, starting with 5 g of (R)-(+)-2-amino-3-phenyl-1-propanol in 50 cm3 of ethanol and 5.7 g of tert-butyl isothiocyanate at a temperature in the region of 20° C. for 16 hours. After an identical work-up, 8.7 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(phenylmethyl)ethyl]thiourea are obtained in the form of a white solid melting at 107° C.

reactant | (R)-(+)-2-amino-3-phenyl-1-propanol | 5 g | N[C@@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | tert-butyl isothiocyanate | 5.7 g | C(C)(C)(C)N=C=S | C5H9NS
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(phenylmethyl)ethyl]thiourea | 8.7 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CC1=CC=CC=C1 | C14H22N2OS
